2199-12-27 07:04:00 Physician Resident Progress Note
Chief Complaint: AMS
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2199-12-27**] 02:12 AM
   Head/Neck r/o PRES vs stroke
   -MRA completed and pending but MRI not able to be obtained [**2-2**] pt mvmt
   -CTA ruled out PE
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2199-12-26**] 04:07 PM
   Metoprolol - [**2199-12-26**] 06:10 PM
   Morphine Sulfate - [**2199-12-27**] 12:30 AM
   Lorazepam (Ativan) - [**2199-12-27**] 01:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain full ROS  [**2-2**] pt somnolence but
   denies pain or SOB
   Flowsheet Data as of  [**2199-12-27**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 73 (69 - 100) bpm
   BP: 123/75(86) {105/69(78) - 176/124(132)} mmHg
   RR: 22 (21 - 37) insp/min
   SpO2: 95%
             Total In:
                                                                  4,462 mL
                                                                    184 mL
   PO:
             TF:
   IVF:
                                                                  1,462 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    520 mL
   Urine:
                                                                    840 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,022 mL
                                                                   -336 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin, pt with limited ability to converse [**2-2**]
   somnolence
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   82 K/uL
   11.8 g/dL
   153 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   27 mg/dL
   97 mEq/L
   133 mEq/L
   34.0 %
   3.4 K/uL
        [image002.jpg]
                            [**2199-12-27**]  05:20 AM
   WBC
   3.4
   Hct
   34.0
   Plt
   82
   Cr
   0.7
   TropT
   0.02
   Glucose
   153
   Other labs: PT / PTT / INR:15.0/29.1/1.3, CK / CKMB /
   Troponin-T:237/2/0.02, ALT / AST:113/383, Alk Phos / T Bili:316/,
   Lactic Acid:5.1 mmol/L, Albumin:2.7 g/dL, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 .H/O CANCER (MALIGNANT NEOPLASM), BREAST
 ALTERATION IN NUTRITION
   Assessment: This is a 60 year-old female with a history of metastatic
   breast CA who presents with progressive altered mental status.
   .
   Plan:
   # Altered mental status: Several possible etiologies at this point.
   Concern for underlying infection, however no other localizing symptoms
   aside from her mental status. No leukocytosis but mild left shift.
   Afebrile. UA is negative. [**Month (only) 51**] also represent hypertensive
   emergency/encephalopathy. Radiology mentioned concern for PRES
   (posterior reversible encephalopathy syndrome), which can be caused by
   cisplatin.
   - appreciate neuro consult
   - f/u blood and urine cx
   - cont vanco/cefepime
   - monitor WBC and fever curve
   - labetalol drip for for now until BP under better control
   - check EEG to r/o seizure activity
   - will check MRI head with gad, using sedation as necessary
   .
   # Hypertension: Concern for hypertensive emergency as above with
   altered mental status.
   - labetalol drip for now
   .
   # Elevated lactate: Concern for infection/sepsis, though has been
   hemodynamically stable. [**Month (only) 51**] be secondary to hypovolemia in the setting
   of poor PO, however has only improved 5.5-->4.5 after 3L IVF.
   - infectious work-up as above
   - cont to trend lactate
   .
   # Metastatic breast CA: Oncology service is aware. Holding chemotherapy
   in the setting of her current illness. As mentioned above, her altered
   mental status could be related to metastatic disease to the brain vs
   PRES possibly secondary to chemotherapy.
   - will touch base with her primary oncologist Dr. [**Last Name (STitle) 4309**] today
   .
   # Comm:
   - sister [**Name (NI) 4617**] [**Telephone/Fax (1) 4618**] ([**Name2 (NI) 4624**]y HCP)
   - significant other [**Name (NI) 129**] [**Telephone/Fax (1) 4619**] ([**Name2 (NI) 4625**]ate HCP)
   ICU [**Name (NI) 81**]
   Nutrition: NPO for now- will consider feeding once pt less somnolent
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2199-12-26**] 05:07 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2199-12-27 08:56:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2199-12-27**] 02:12 AM
   Head/Neck r/o PRES vs stroke
   Somnulant, but awakes to voice.
   Remains somnulant, restless.
   BP control improved, now off iv beta-blocker infusion.
   Observed to exhibit Cheynne-[**Doctor Last Name 559**] breathing pattern.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Somnulant/altered mental status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2199-12-26**] 04:07 PM
   Metoprolol - [**2199-12-26**] 06:10 PM
   Morphine Sulfate - [**2199-12-27**] 12:30 AM
   Lorazepam (Ativan) - [**2199-12-27**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, Daytime
   somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-12-27**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 72 (69 - 100) bpm
   BP: 127/85(95) {105/69(78) - 176/124(132)} mmHg
   RR: 29 (21 - 37) insp/min
   SpO2: 98%
             Total In:
                                                                  4,462 mL
                                                                    202 mL
   PO:
             TF:
   IVF:
                                                                  1,462 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    570 mL
   Urine:
                                                                    840 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,022 mL
                                                                   -368 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.8 g/dL
   82 K/uL
   153 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   27 mg/dL
   97 mEq/L
   133 mEq/L
   34.0 %
   3.4 K/uL
        [image002.jpg]
                            [**2199-12-27**]  05:20 AM
   WBC
   3.4
   Hct
   34.0
   Plt
   82
   Cr
   0.7
   TropT
   0.02
   Glucose
   153
   Other labs: PT / PTT / INR:15.0/29.1/1.3, CK / CKMB /
   Troponin-T:237/2/0.02, ALT / AST:113/383, Alk Phos / T Bili:316/,
   Lactic Acid:5.1 mmol/L, Albumin:2.7 g/dL, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Altered mental status, concern for PRES (posterior reversible
   encephalopathy syndrome), possibly related to cisplatin.  Consider
   intermittent seizure (related to PRES).  Less likely embolic CVA, or
   infection.
   HTN
 improved, now off iv labetolol.  Transition to PO med if able to
   tolerate.
   Onc: breast ca widely metastatic
   Lactate, CK, trop unclear explanation, no renal failure, [**Male First Name (un) **]
t know if
   this could represent new mets- no response to fluid resuscitation, no
   period of immobility or muscle activity (rigors, termors, seizure)
   Mild hypoxemia with known lung mets, cxr looks like lymphangitic
   carcinomatosis as well as metastatic nodules
   ECG shows sinus tach, small S in I, Q in III, IVCD in II, III, aVF- may
   be c/w RV strain
   Plan:
   1.       MRI/MRA head/neck to w/u PRES and embolic CVA
   2.       CT-angio to r/o PE
   3.       HTN- switch to PO meds
   4.       DNR/DNI
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 .H/O CANCER (MALIGNANT NEOPLASM), BREAST
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-12-26**] 05:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2199-12-28 06:15:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Status
   24 Hour Events:
   -Hypertension: IV [** **] q6h-SBPs mostly 130s-150, then up to 160s/100s
   at 10p so extra dose IV [** **]. Again up to the 160s at 6am so received
   , 10 IV labetalol.
   -EEG-> done but not read
   -Dr. [**Last Name (STitle) 4309**], her primary oncologist came by and said he wouldn't be
   surprised if she had brain mets, given how fast her disease has
   progressed over the past few months. Said would only consider
   palliative XRT/Chemo if her mental status improves over next few days,
   o/w unlikely to improve at all.
   -Patient became increasingly agitated throughout the day . repeating
   that she wants to die. Given Ativan 1mg  q6h plus one extra 0.5 dose.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2199-12-28**] 03:00 AM
   Lorazepam (Ativan) - [**2199-12-28**] 04:00 AM
   Morphine Sulfate - [**2199-12-28**] 05:23 AM
   Labetalol - [**2199-12-28**] 05:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-12-28**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 89 (69 - 107) bpm
   BP: 162/103(117) {115/75(90) - 174/120(125)} mmHg
   RR: 30 (20 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    616 mL
                                                                    151 mL
   PO:
             TF:
   IVF:
                                                                    616 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    120 mL
   Urine:
                                                                    955 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -339 mL
                                                                     31 mL
   Respiratory support
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Periods of somnolence interrupted by periods of
   restlessness
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Opens eyes to voice, occasionally follows simple commands,
   Responds to: Verbal stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   71 K/uL
   12.6 g/dL
   124 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   33 mg/dL
   104 mEq/L
   140 mEq/L
   36.6 %
   7.9 K/uL
        [image002.jpg]
                            [**2199-12-27**]  05:20 AM
                            [**2199-12-27**]  03:07 PM
                            [**2199-12-28**]  04:05 AM
   WBC
   3.4
   7.9
   Hct
   34.0
   36.6
   Plt
   82
   71
   Cr
   0.7
   0.8
   0.8
   TropT
   0.02
   Glucose
   153
   130
   124
   Other labs: PT / PTT / INR:16.0/26.5/1.4, CK / CKMB /
   Troponin-T:237/2/0.02, ALT / AST:113/383, Alk Phos / T Bili:316/,
   Lactic Acid:3.4 mmol/L, Albumin:2.7 g/dL, Ca++:9.0 mg/dL, Mg++:2.6
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment: This is a 60 year-old female with a history of metastatic
   breast CA who presents with progressive altered mental status.
   .
   Plan:
   # Altered mental status:  [**Month (only) 51**] be PRES or metastatic disease to brain.
   Patient
s mental status preventing another MRI with GAD to better
   characterize lesions.  No sign of infection
   For PRES:
   -BP not well contolled on [**Last Name (LF) **], [**First Name3 (LF) **] restart labetalol gtt for SBP
   130-150.  Would expect improvement in 3 days if PRES.,
   - f/u EEG
   - f/u final MRI read
   -continue thiamine
   .
   #Thrombocytopenia: [**2-2**] Chemo (recent Xeloda, Cisplatin). Stable, no
   signs of bleeding
   -daily PLT
   -transfuse for <10 or signs of bleeding
   .
   # Elevated lactate:  Trending down, likely increased in setting of
   difficultly processing [**2-2**] liver mets as well as decreased nutrition
   and low thiamine (substrate for metabolism).
   -continue to trend lactate
   -continue thiamine
   .
   # Metastatic breast CA: Holding chemotherapy in the setting of her
   current illness.  Unless her mental status improves there is unlikely
   to be any futher interventions.
   - f/u recs from Dr. [**Last Name (STitle) 4309**]
   .
   # Comm:
   - sister [**Name (NI) 4617**] [**Telephone/Fax (1) 4618**] ([**Name2 (NI) 4624**]y HCP)
   - significant other [**Name (NI) 129**] [**Telephone/Fax (1) 4619**] ([**Name2 (NI) 4625**]ate HCP)
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-12-26**] 05:07 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:  60 yo F with metastatic breast ca (to liver
   and lung) presents with htn and altered MS.  AMS attributed to PRES
   and possible new brain mets.
        Weaned off gtt labetolol yesterday but increasingly hypertensive
   overnight, requiring additional doses of IV labetolol.  EEG performed
   --> result pending.  Increasingly agitated with prn ativan and morphine
   given.
   Exam notable for Tm AF BP 168/94 HR 89 RR 20-40 with sats 95-100% on 3L
   NC. Neg i/o's 239 cc / 24 hrs
     Awake F, agitated, unable to follow commands, minimally interactive,
   intermittent [**Last Name (un) 558**] [**Doctor Last Name 559**] resp, coarse BS, RR, soft abd, + BS, moves
   all 4 ext, warm ext with palp distal pulses.
   Labs notable for WBC 7.9K, HCT 36.6 (st) , plts 71 (82) K+ 4.0, Cr 0.8
   CXR unchanged, b/l int markings with known lung mets and lymphangitic
   spread of breast ca
   Blood cx --> ngtd.
   60 yo F with metastatic breast ca (to liver and lung) presents with htn
   and altered MS.  AMS attributed to PRES and possible new brain mets.
   Primary issues include:
     * Altered MS
         felt [**2-2**] PRES (recent cisplatin), intermittent sz, possible new
   brain mets
     * HTN
     * Advanced/metastatic breast ca
     * Lactic acid elevation
     * Thrombocytopenia
     * Hypoxia (stable O2 sats on 3L NC with known lung involvement of
       breast ca)
   Agree with plan to restart labetolol gtt for improved BP control,
   maintaining sys < 150. Continue to monitor neuro exam closely.  With
   adequate BP control might anticipate improvement in neurologic
   status/mental status over next few days if [**2-2**] PRES, though concern
   also for progressive breast ca with new brain mets contributing.   F/u
   eeg read and continue thiamine. Thrombocytopenia presumed to be [**2-2**]
   recent chemo.  Counts decreased slightly.  Continue to monitor.
   Metastatic breast ca--family aware of poor prognosis and advancing ds.
   Appreciate oncolooy input and communication. Lactic acidosis likely [**2-2**]
   liver mets and poor nutrition and possible thiamine def
is now trending
   down.  Appears adequately fluid resus. Will continue to monitor.  Will
   start maintenance IVFs as pt remains NPO given altered MS.  Continue
   ICU prophy with pneumo-boots.  DNR/DNI.  Pending additional improvement
   in neurologic status over next few days, family likely heading toward
   CMO.  Will continue close updates.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2199-12-28**] 12:51 PM ------

2199-12-29 08:10:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   - Restarted labetolol gtt, discontinued hydralazine => SBPs well
   controlled in 130s.
   - Continuous IVFs
   - No source of infection isolated (urine cx's: NGTD, blood cx's:
   pending)
   Patient unable to provide history due to poor attention and focus.
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 1 mg/min
   Other ICU medications:
   Hydralazine - [**2199-12-28**] 08:15 AM
   Morphine Sulfate - [**2199-12-29**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-12-29**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 71 (66 - 111) bpm
   BP: 119/70(81) {116/57(76) - 168/116(124)} mmHg
   RR: 20 (20 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,598 mL
                                                                    236 mL
   PO:
             TF:
   IVF:
                                                                  1,598 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                    280 mL
   Urine:
                                                                    845 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    753 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Patient somnolent
   Eyes / Conjunctiva: PERRL, EOM unable to be assessed to to inability to
   follow commands
   Head, Ears, Nose, Throat: Normocephalic, dry oral mucosa, left anterior
   cervical chain lymphadenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), No M/R/G
   Respiratory / Chest: (Breath Sounds: Wheezes : scattered, Diminished:
   at left poterior field)
   Abdominal: Soft, Non-tender, Bowel sounds present, non-distended
   GU: Bilious urine appearing in foley bag
   Extremities: No C/C/E
   Skin:  No rashes
   Neurologic: Inattentive and does not follow simple commands. Responds
   to: Verbal stimuli, Oriented (to): "Hospital" Does not know date.
   Labs / Radiology
   47 K/uL
   11.1 g/dL
   115 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   36 mg/dL
   111 mEq/L
   146 mEq/L
   34.4 %
   4.8 K/uL
        [image002.jpg]
                            [**2199-12-27**]  05:20 AM
                            [**2199-12-27**]  03:07 PM
                            [**2199-12-28**]  04:05 AM
                            [**2199-12-29**]  04:39 AM
   WBC
   3.4
   7.9
   4.8
   Hct
   34.0
   36.6
   34.4
   Plt
   82
   71
   47
   Cr
   0.7
   0.8
   0.8
   0.8
   TropT
   0.02
   Glucose
   153
   130
   124
   115
   Other labs: PT / PTT / INR:16.8/29.4/1.5, CK / CKMB /
   Troponin-T:237/2/0.02, ALT / AST:113/383, Alk Phos / T Bili:316/,
   Lactic Acid:3.4 mmol/L, Albumin:2.7 g/dL, Ca++:8.5 mg/dL, Mg++:2.7
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   60 year-old female with a history of metastatic breast CA who presents
   with progressive altered mental status.
   # Altered mental status:
   [**Month (only) 51**] be Posterior Reversible Encephalopathy Syndrome (PRES) or
   metastatic disease to brain. MRI of brain final read reveals inability
   to evaluate for metastatic disease in setting of imaging artifact. No
   sign of infection. Would expect improvement in 3 days if PRES. BPs
   well-controlled on labetalol drip with SBPs in the 130s. EEG consistent
   with
widespread encephalopathy affecting both cortical and subcortical
   structures
. No epileptiform activity seen.
   - Continue labetalol drip
   - Continue thiamine
   #Thrombocytopenia:
   Likely secondary to chemo (recent Xeloda, Cisplatin). Platelet count
   has decreased from 71 to 47 today. No signs of active bleeding.
   - Daily PLT
   - Transfuse for <10 or signs of bleeding
   # Elevated lactate:
   Trending down from 5.5 at admission to 3.4 yesterday, likely increased
   in setting of difficultly processing [**2-2**] liver mets as well as
   decreased nutrition and low thiamine (substrate for metabolism).
   - Continue to trend lactate with AM labs
   - Continue thiamine
   # Metastatic breast CA:
   Holding chemotherapy in the setting of her current illness.  Unless her
   mental status improves there is unlikely to be any futher
   interventions.
   - f/u recs from Dr. [**Last Name (STitle) 4309**] and consult with him for goals of care
   discussion with patient and family
   - Consider palliative care consult
   # Dry oral mucosa
   Likely causing significant discomfort.
   - Continue maintenance fluids
   - Continue oral care
   ICU Care
   Nutrition:
   NPO except for meds
   Lines:
   20 Gauge - [**2199-12-26**] 05:07 PM
   22 Gauge - [**2199-12-29**] 07:48 AM
   Prophylaxis:
   DVT: Boots
   Communication:
   - sister [**Name (NI) 4617**] [**Telephone/Fax (1) 4618**] ([**Name2 (NI) 4624**]y HCP)
   - significant other [**Name (NI) 129**] [**Telephone/Fax (1) 4619**] ([**Name2 (NI) 4625**]ate HCP)
   [**Name (NI) 36**] status: DNR / DNI
   Disposition:  ICU while on labetalol drip
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:  60 yo F with metastatic breast ca (to liver
   and lung) presents with htn and altered MS.  AMS attributed to PRES
   and possible new brain mets.
   Restarted labetolol gtt yesterday with improved bp control.
   Exam notable for Tm AF BP 116-168 sys HR 66-111 RR 20-30 with
   sats 97% on 3L NC.     i/o's-->800ml +
     Awake F, somnolent, unable to follow commands, minimally interactive,
   coarse BS, RR, soft abd, + BS, moves all 4 ext, warm ext with palp
   distal pulses.
   Labs notable for WBC 4.8K, HCT 34.4 (st) , plts 47 (82, 71), na 146
   (140), K+ 4.0, Cr 0.8
   Blood cx --> ngtd.
   60 yo F with metastatic breast ca (to liver and lung) presents with htn
   and altered MS.  AMS attributed to PRES and possible new brain
   mets/advancing disease.
   Primary issues include:
     * Altered MS--felt [**2-2**] PRES (recent cisplatin), intermittent sz,
       possible new brain mets
     * HTN
     * Advanced/metastatic breast ca
     * Lactic acid elevation
     * Thrombocytopenia
     * Hypoxia (stable O2 sats on 3L NC with known lung involvement of
       breast ca)
     * hypernatremic
   Agree with plan to continue aggressive BP control -->labetolol gtt -->
   will consider resuming intermittent IV BP medication, as pt unable to
   take PO's, though control had been suboptimal with IV hydral when last
   tried.   Continue to monitor neuro exam closely.  No evidence of active
   sz on recent EEG which was c/w toxic-metabolic encephalopathy. With
   adequate BP control might anticipate some improvement in neurologic
   status/mental status over next few days if [**2-2**] PRES--though PRES may
   not be fully reversible and could potentially take significantly longer
   to resolve. Also with high concern for progressive breast ca with new
   brain mets contributing.  Thrombocytopenia presumed to be [**2-2**] recent
   chemo.  Counts continue to drop--monitor and transfuse for evidence of
   active bleed or counts < 20.  Family is aware of poor prognosis and
   advancing metastatic breast ca. Appreciate oncolooy input and
   communication. Continue to treat pain as need with prn morphine. Would
   consider palliative care c/s but would discuss with onc first. Issue of
   nutrition remains as well as pt with poor PO X days and unable to take
   POs now [**2-2**] mental status.  Consider discussion of NGT placement as
   temporizing [**Doctor Last Name **] over next 1-2 days depending upon pt improvement and
   family input regarding goals of care. At present will
   continue maintenance IVFs.  Free water to correct FWD given new mild
   hypernatremia.  Continue ICU prophy with pneumo-boots. Lactic acidosis
   likely [**2-2**] liver mets and poor nutrition
appears adequately fluid
   resus. Continue thiamine.  Pt is DNR/DNI.  Pending additional
   improvement in neurologic status over next few days, family likely
   heading toward CMO.  Will readdress with dicussion with onc and family
   mtg.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2199-12-29**] 13:52 ------

2199-12-30 08:00:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Status
   24 Hour Events:
   -Ongoing discussions with family re: pt's lack of improvement in MS.
   Trying to arrange family mtg with as many members of family as possible
   for Tues with Dr. [**Last Name (STitle) 4309**] as well. Of note there is conflict btwn pt's dtr
   and ex-husband vs the rest of the family. Sister is HCP and trying to
   arrange family mtg as well.
   -should consider consulting palliative care tomorrow for pain mgmt to
   start. Pt not yet [**Last Name (STitle) 580**] but increasingly seems to be uncomfortable. Using
   morphine prn for pain but this tends to exacerbate apnea
   -Continued on Labetalol gtt down to 0.5mg/min then turned off starting
   at  1700 last night
   -D5 1/2 NS at 150cc/hr for fluids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-12-30**] 02:00 AM
   Morphine Sulfate - [**2199-12-30**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Patient unable to provide due to altered mental
   status
   Flowsheet Data as of  [**2199-12-30**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 71 (62 - 77) bpm
   BP: 128/81(93) {103/54(72) - 141/83(120)} mmHg
   RR: 26 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,202 mL
                                                                    465 mL
   PO:
             TF:
   IVF:
                                                                  2,202 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                    929 mL
                                                                    265 mL
   Urine:
                                                                    929 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,273 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Somnolent
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, oral mucosa dry with tounge
   cracking
   Lymphatic: Left anterior cervical chain adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : Left anterior upper
   lung field., Diminished: Left anterior upper lung field.) Respirations
   are rapid and deep associated with increased alertness and then
   punctuated by periods of apnea.
   Abdominal: Soft, Non-tender, Hypoactive bowel sounds
   Extremities: Edema absent in bilateral lower extremities
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Patient was trasiently awake throughout exam, but would
   quickly fall asleep and was not alert enough to answer questions.
   Labs / Radiology
   51 K/uL
   11.0 g/dL
   105 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   30 mg/dL
   112 mEq/L
   143 mEq/L
   34.3 %
   5.3 K/uL
        [image002.jpg]
                            [**2199-12-27**]  05:20 AM
                            [**2199-12-27**]  03:07 PM
                            [**2199-12-28**]  04:05 AM
                            [**2199-12-29**]  04:39 AM
                            [**2199-12-29**]  04:44 PM
                            [**2199-12-30**]  04:22 AM
   WBC
   3.4
   7.9
   4.8
   5.3
   Hct
   34.0
   36.6
   34.4
   34.3
   Plt
   82
   71
   47
   51
   Cr
   0.7
   0.8
   0.8
   0.8
   0.9
   0.8
   TropT
   0.02
   Glucose
   153
   130
   124
   115
   138
   105
   Other labs: PT / PTT / INR:16.8/29.4/1.5, CK / CKMB /
   Troponin-T:237/2/0.02, ALT / AST:113/383, Alk Phos / T Bili:316/,
   Lactic Acid:3.4 mmol/L, Albumin:2.7 g/dL, Ca++:8.5 mg/dL, Mg++:2.6
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   60 year-old female with a history of metastatic breast CA who presents
   with progressive altered mental status.
   # Altered mental status:
   [**Month (only) 51**] be Posterior Reversible Encephalopathy Syndrome (PRES) or
   metastatic disease to brain. MRI of brain final read reveals inability
   to evaluate for metastatic disease in setting of imaging artifact. No
   sign of infection. EEG consistent with
widespread encephalopathy
   affecting both cortical and subcortical structures
. No epileptiform
   activity seen.  Would expect improvement in 3 days if PRES. BPs
   well-controlled on labetalol drip yesterday with SBPs in the 130s prior
   to labetalol drip being titrated off at approximately 1700 last night.
   Patient
s blood pressure was climbing slowly this AM.
   - Enalaprilat 2.5 mg IV Q6H
   - Continue thiamine
   #Thrombocytopenia:
   Likely secondary to chemo (recent Xeloda, Cisplatin). Platelet count
   stable at 51 today from 47. No signs of active bleeding.
   - Daily PLT
   - Transfuse for <10 or signs of bleeding
   # Elevated lactate:
   Trending down from 5.5 at admission to 3.4 on [**2199-12-28**], likely
   increased in setting of difficultly processing [**2-2**] liver mets as well
   as decreased nutrition and low thiamine (substrate for metabolism). No
   need to continue to trend this value.
   - Continue thiamine
   # Metastatic breast CA:
   Holding chemotherapy in the setting of her current illness.  Unless her
   mental status improves there is unlikely to be any futher
   interventions. Has been some family members indicating they would like
   [**Name (NI) 580**] status while still others do not seem to agree.
   - Will work with Dr. [**Last Name (STitle) 4309**] to have a family discussion regarding goals
   of care, specifically if the patient would want a feeding tube to
   sustain nutrition as she currently does not have adequate mental status
   for PO intake.
   - Considering palliative care consult; however, will speak with Dr.
   [**Last Name (STitle) 4309**] and family first regarding goals of care
   - Pain control with IV morphine
   - Anxiolysis with lorazepam
   # Dry oral mucosa
   - Continue maintenance fluids
   - Continue oral care
   ICU Care
   Nutrition:
   NPO including meds
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-12-26**] 05:07 PM
   22 Gauge - [**2199-12-29**] 07:48 AM
   Prophylaxis:
   DVT: Pneumoboots
   Communication:  Comments: With multiple family members, including her
   HCP
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: To remain in ICU until patient able to have BP controled
   without need for labetalol drip

2199-12-31 08:00:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 NASAL SWAB - At [**2199-12-31**] 04:06 AM
   - Patient was off labetalol drip all morning and had trial of
   enalaprilat 2.5 mg Q6H with little effect on BP. As her BP climbed
   through day, was restarted on labetalol drip at 1830 with good effect.
   - Family meeting with Dr. [**Last Name (STitle) 4309**] revealed family's desire to continue
   with current course and then revisit discussion once more information
   gathered from neurology and repeat MRI.
   - Neurology reported that time course and prognosis of PRES is
   unpredictable and thus they are unable to provide family with concrete
   goals and information at this time regarding potential resolution of
   mental status.
   - MRI unable to be pursued due to patient's mental status as during her
   prior MRI she received pain medication and anxiolytics without much
   effect on movement in MRI machine.
   - Low UOP in the evening at 1900 prompted a 500 mL NS bolus which
   resulted in increase in UOP over next 2 hours
   Patient unable to provide history or ROS due to Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 0.5 mg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-12-31**] 03:30 AM
   Morphine Sulfate - [**2199-12-31**] 06:45 AM
   Other medications:
   Flowsheet Data as of  [**2199-12-31**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 65 (65 - 101) bpm
   BP: 115/75(85) {115/72(56) - 171/120(129)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,594 mL
                                                                    835 mL
   PO:
             TF:
   IVF:
                                                                  2,594 mL
                                                                    835 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    295 mL
   Urine:
                                                                    740 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,854 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (3 L)
   SpO2: 92%
   Physical Examination
   GEN:   Patient somnolent and moaning out occasionally
   HEENT:  NC/AT, PERRL, oral mucosa is dry with tongue bleeding
   NECK:  supple, left anterior cervical LAD
   PULM: Periods of apnea interrupted by gradually deepening tachypneic
   breaths, BS diminished at anterior left upper lung field
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD:   BS hypoactive, soft, NT, ND
   EXT:  No C/C/E
   SKIN: No rashes or breakdown
   NEURO: Patient inattentive with occasional transient eye-opening to
   vocal stimuli, somnolent
   Labs / Radiology
   41 K/uL
   10.2 g/dL
   125 mg/dL
   0.7 mg/dL
   24 mEq/L
   5.0 mEq/L
   24 mg/dL
   111 mEq/L
   140 mEq/L
   31.2 %
   5.3 K/uL
        [image002.jpg]
                            [**2199-12-27**]  05:20 AM
                            [**2199-12-27**]  03:07 PM
                            [**2199-12-28**]  04:05 AM
                            [**2199-12-29**]  04:39 AM
                            [**2199-12-29**]  04:44 PM
                            [**2199-12-30**]  04:22 AM
                            [**2199-12-31**]  03:06 AM
   WBC
   3.4
   7.9
   4.8
   5.3
   5.3
   Hct
   34.0
   36.6
   34.4
   34.3
   31.2
   Plt
   82
   71
   47
   51
   41
   Cr
   0.7
   0.8
   0.8
   0.8
   0.9
   0.8
   0.7
   TropT
   0.02
   Glucose
   153
   130
   124
   115
   138
   105
   125
   Other labs: PT / PTT / INR:16.8/29.4/1.5, CK / CKMB /
   Troponin-T:237/2/0.02, ALT / AST:113/383, Alk Phos / T Bili:316/,
   Lactic Acid:3.4 mmol/L, Albumin:2.7 g/dL, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   60 year-old female with a history of metastatic breast CA who presents
   with progressive altered mental status.
   # Altered mental status / Metastatic breast CA:
   [**Month (only) 51**] be Posterior Reversible Encephalopathy Syndrome (PRES) or
   metastatic disease to brain. MRI of brain final read reveals inability
   to evaluate for metastatic disease in setting of imaging artifact. No
   sign of infection. EEG consistent with
widespread encephalopathy
   affecting both cortical and subcortical structures
. No epileptiform
   activity seen.   Hypertension control with labetalol drip continued
   yesterday. Dr. [**Last Name (STitle) 4309**] stopped by to see patient and family yesterday and
   outcome of his meeting was a request to contact neurology for further
   prognostic information for PRES as well as potential for repeat MRI.
   Neurology was contact[**Name (NI) **] and they felt that the time course and
   prognosis of PRES was too variable to be able to provide family with
   concrete information in goals of care discussion. MRI tech revealed
   that repeat MRI could not be attempted without intubation and sedation
   with anesthesia present as patient
s mental status and movement is
   incompatible with repeat imaging. Dr. [**Last Name (STitle) 4309**] was notified of this in an
   email yesterday evening. Patient is receiving morphine essentially
   every 2 hours for comfort and this may be impacting mental status at
   this point.
   - Contact Dr. [**Last Name (STitle) 4309**] for repeat discussion with family about goals of
   care given new information from neurology and inability to repeat MRI.
   - Consider palliative care consult pending Dr. [**Last Name (STitle) 4309**]
s discussion with
   patient
s family
   - Pain control with IV morphine
   - Anxiolysis with lorazepam
   - Oral care Q4H
   - Maintenance fluids
   - Patient unlikely to need further BP control with labetalol drip;
   however, will leave labetalol on at this time pending Dr. [**Last Name (STitle) 4309**]
   discussion with patient
s family
   #Thrombocytopenia:
   Likely secondary to chemo (recent Xeloda, Cisplatin). Platelet count
   down to 41 today. No signs of active bleeding.
   - Daily PLT
   - Transfuse for <10 or signs of bleeding
   ICU Care
   Nutrition:
   NPO as insufficient mental status to maintain PO intake
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-12-26**] 05:07 PM
   22 Gauge - [**2199-12-29**] 07:48 AM
   Prophylaxis:
   DVT: Pneumoboots
   Communication:  With patient
s family
   Code status: DNR/DNI
   Disposition: Pending Dr. [**Last Name (STitle) 4309**]
s discussion with patient
s family

2200-01-01 07:24:00 Physician Resident Progress Note
Chief Complaint: AMS
   24 Hour Events:
   - neuro recs: MRI results likely PRES, recommend paraneoplastic w/u and
   MRI/MRV if repeated to assess for sagittal sinus thrombosis, and EEG to
   assess for seizures. PRES may be reversible in as early as 1 wk, but
   encephalopathy is likely multifactorial (ie. metastases may be
   involved) and reversal of PRES does not guarantee resolution of current
   encephalopathy.
   - Dr. [**Last Name (STitle) 4309**] emailed on [**12-31**] in PM, had spoken with neurology. Returned
   email, requesting to speak with him on AM rounds and to come in to have
   repeat family meeting today now new neuro recs are in.
   - episode of hypotension SBP to 90/60 => given 500 cc NS bolus => SBPs
   back to 120s-130s/60s. BS present BL. No EKG, CXR performed.
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-12-31**] 11:00 PM
   Morphine Sulfate - [**2200-1-1**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-1**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 74 (62 - 83) bpm
   BP: 145/91(102) {91/24(58) - 156/101(111)} mmHg
   RR: 26 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,726 mL
                                                                  1,122 mL
   PO:
             TF:
   IVF:
                                                                  2,726 mL
                                                                  1,122 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    125 mL
   Urine:
                                                                    710 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,016 mL
                                                                    997 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed
   Labs / Radiology
   41 K/uL
   10.3 g/dL
   114 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   21 mg/dL
   110 mEq/L
   141 mEq/L
   32.1 %
   6.1 K/uL
        [image002.jpg]
                            [**2199-12-27**]  05:20 AM
                            [**2199-12-27**]  03:07 PM
                            [**2199-12-28**]  04:05 AM
                            [**2199-12-29**]  04:39 AM
                            [**2199-12-29**]  04:44 PM
                            [**2199-12-30**]  04:22 AM
                            [**2199-12-31**]  03:06 AM
                            [**2200-1-1**]  04:30 AM
   WBC
   3.4
   7.9
   4.8
   5.3
   5.3
   6.1
   Hct
   34.0
   36.6
   34.4
   34.3
   31.2
   32.1
   Plt
   82
   71
   47
   51
   41
   41
   Cr
   0.7
   0.8
   0.8
   0.8
   0.9
   0.8
   0.7
   0.7
   TropT
   0.02
   Glucose
   153
   130
   124
   115
   138
   105
   125
   114
   Other labs: PT / PTT / INR:16.8/29.4/1.5, CK / CKMB /
   Troponin-T:237/2/0.02, ALT / AST:113/383, Alk Phos / T Bili:316/,
   Lactic Acid:3.4 mmol/L, Albumin:2.7 g/dL, Ca++:8.0 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 .H/O CANCER (MALIGNANT NEOPLASM), BREAST
 ALTERATION IN NUTRITION
   60 year-old female with a history of metastatic breast CA who presents
   with progressive altered mental status.
   # Altered mental status:
   [**Month (only) 51**] be Posterior Reversible Encephalopathy Syndrome (PRES) or
   metastatic disease to brain. MRI of brain final read reveals inability
   to evaluate for metastatic disease in setting of imaging artifact. No
   sign of infection. EEG consistent with
widespread encephalopathy
   affecting both cortical and subcortical structures
. No epileptiform
   activity seen.  Would expect improvement in 3 days if PRES. BPs
   well-controlled on labetalol drip yesterday with SBPs in the 130s prior
   to labetalol drip being titrated off at approximately 1700 last night.
   Patient
s blood pressure was climbing slowly this AM.
   - Enalaprilat 2.5 mg IV Q6H
   - Continue thiamine
   #Thrombocytopenia:
   Likely secondary to chemo (recent Xeloda, Cisplatin). Platelet count
   stable at 51 today from 47. No signs of active bleeding.
   - Daily PLT
   - Transfuse for <10 or signs of bleeding
   # Elevated lactate:
   Trending down from 5.5 at admission to 3.4 on [**2199-12-28**], likely
   increased in setting of difficultly processing [**2-2**] liver mets as well
   as decreased nutrition and low thiamine (substrate for metabolism). No
   need to continue to trend this value.
   - Continue thiamine
   # Metastatic breast CA:
   Holding chemotherapy in the setting of her current illness.  Unless her
   mental status improves there is unlikely to be any futher
   interventions. Has been some family members indicating they would like
   [**Name (NI) 580**] status while still others do not seem to agree.
   - Will work with Dr. [**Last Name (STitle) 4309**] to have a family discussion regarding goals
   of care, specifically if the patient would want a feeding tube to
   sustain nutrition as she currently does not have adequate mental status
   for PO intake.
   - Considering palliative care consult; however, will speak with Dr.
   [**Last Name (STitle) 4309**] and family first regarding goals of care
   - Pain control with IV morphine
   - Anxiolysis with lorazepam
   # Dry oral mucosa
   - Continue maintenance fluids
   - Continue oral care
   ICU Care
   Nutrition: IVF for now- pt would like these at this time.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2199-12-31**] 07:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: [**Year (4 digits) 580**]
   Disposition: Transfer to [**Hospital Ward Name **] 7 and OMED service